US08623889B2
Step 3: (1S,2S)-2-fluoro-N-(7-(2-(hydroxymethyl)-4-methylpyridin-3-yl)isoquinolin-3-yl)cyclopropanecarboxamide
A mixture of (1S,2S)-2-fluoro-N-(7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isoquinolin-3-yl)cyclopropanecarboxamide (56.5 mg; 0.159 mmol), (3-bromo-4-methylpyridin-2-yl)methanol (75 mg; 0.37120 mmol), bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) (9.1 mg; 0.013 mmol), potassium carbonate (65.2 mg; 0.472 mmol), dioxane (2.0 mL; 23 mmol), and water (0.2 mL; 10 mmol) was subjected to microwave irradiation at 100° C. for 60 minutes. The reaction mixture was diluted with ethyl acetate, washed with water and brine, dried over magnesium sulfate, filtered, and evaporated in vacuo. The crude reaction mixture was purified via reverse-phase preparatory HPLC and lyophilized to yield 3.9 mg (7%) of the title compound. LCMS (ESI): RT (min)=2.16, M+H=352.2, method=H; 1H NMR (400 MHz, DMSO) δ 10.96 (s, 1H), 9.15 (s, 1H), 8.53 (s, 1H), 8.48 (d, J=5.0 Hz, 1H), 7.97 (d, J=8.5 Hz, 1H), 7.94 (s, 1H), 7.57 (d, J=8.4 Hz, 1H), 7.34 (d, J=5.0 Hz, 1H), 4.95 (m, 2H), 4.25 (s, 2H), 2.28 (m, 1H), 2.07 (s, 3H), 1.77-1.61 (m, 1H), 1.28-1.12 (m, 1H).

reactant | (1S,2S)-2-fluoro-N-(7-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)isoquinolin-3-yl)cyclopropanecarboxamide | 0.159 mmol, 56.5 mg | F[C@@H]1[C@@H](C1)C(=O)NC=1N=CC2=CC(=CC=C2C1)B1OC(C(O1)(C)C)(C)C | C19H22BFN2O3
reactant | (3-bromo-4-methylpyridin-2-yl)methanol | 0.37120 mmol, 75 mg | BrC=1C(=NC=CC1C)CO | C7H8BrNO
reactant | potassium carbonate | 0.472 mmol, 65.2 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dioxane | 23 mmol, 2.0 mL | O1CCOCC1 | C4H8O2
reactant | water | 10 mmol, 0.2 mL | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | bis(di-tert-butyl(4-dimethylaminophenyl)phosphine)dichloropalladium(II) | 0.013 mmol, 9.1 mg | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
product | (1S,2S)-2-fluoro-N-(7-(2-(hydroxymethyl)-4-methylpyridin-3-yl)isoquinolin-3-yl)cyclopropanecarboxamide | 3.9 mg, 7% | F[C@@H]1[C@@H](C1)C(=O)NC=1N=CC2=CC(=CC=C2C1)C=1C(=NC=CC1C)CO | C20H18FN3O2
